reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([O:3][C:4](=[C:5]([H:14])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17],73.3442120538164
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2][C@@:4]([C:3]([H:10])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],71.41343148832959
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([O:7][C:6](=[N+:5]1[C-:3]([H:9])[C:4]1([H:10])[H:11])[H:12])[H:8],72.3408290970543
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[C:4](=[C:5]([O:6][C:7]([H:19])([H:20])[H:21])[H:17])([H:15])[H:16].[H:12][H:18],94.2114003711014
[C:1]([C:2]([O:5][C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[N:3]#[C:4][H:12]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],82.34185835165312
[C:1]([C:2](=[C:3]([H:10])[H:12])[C:4]([O:5][H:15])([H:13])[H:14])([H:6])([H:7])[H:9].[H:8][H:11]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8],84.4076037023859
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[C:6])[C:7](=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10],73.0489657932135
[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[O:4][C@:5]1([H:10])[O:6]2)[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],12.354870548471588
[C:1]([C:2](=[C:3]([H:11])[H:12])[C@:6]1([H:14])[O:5][C:4]([H:13])=[C:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],70.3876111848246
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]=[C:2]([C@@:3]([C:4]([H:9])([H:10])[H:11])([O+:6]=[C-:5][H:12])[H:8])[H:7],85.2378461568306
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4](\[C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[O:3]([H:12])[H:13],60.3445656063816
[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[C:6]#[C:7][H:11])[H:9])([H:8])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],24.63419824850211
[O:1]=[C:2]([C:3]([C:4]([N+:6]#[C-:5])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],38.97203170664339
[C:1]([C:2]([O:3]/[C:4]([O:5][H:13])=[N:6]\[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],27.6134667491201
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C-:4]([H:12])[O+:5]=[C:6]([H:13])[O:7]1)[H:8],70.4808573089618
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:5]=[N:6][C:3]([O:4][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],82.175695425055
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N+:2]([C:3]([O-:4])=[C:5]([O:6][H:13])[H:11])([H:10])[H:12])([H:7])([H:8])[H:9],81.1048901336992
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[C:2]1([H:9])([H:10])[C@:3]2([H:11])[C@@:4]1([H:13])[C:5](=[O:6])[C:7]2([H:14])[H:15].[O:1]([H:8])[H:12],84.1912262645522
[O:1](/[C:5](=[C:4]1\[C@@:2]([C:6]#[C:7][H:13])([H:9])[C:3]1([H:10])[H:11])[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],76.52478272604921
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:3]1=[C:4]([C:5]#[N:6])[C:2]1([H:10])[H:11])([H:7])([H:8])[H:9],91.3506168978476
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][O:4][C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],56.8787884003724
[C:1]([C:2]([N:3]([C:4][N:5]([C:6]#[N:7])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],42.1734971105956
[O:1]([C:2]([C:3](=[C+:4][C:5]#[C-:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7],59.685694042209214
[C:1]([C+:2]1[C:3]([H:11])([H:12])[C@:4]1([C-:5]([O:6][H:16])[H:14])[H:13])([H:7])([H:8])[H:9].[H:10][H:15]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],35.69114469478879
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]1[C@:2]23[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[C@:6]12[N:7]3,99.3266971756139
